US04874768
1.05 g of 1,1-diethyl-3-(2-iodo-6-methyl-8α-ergolinyl)urea is stirred for 3 hours at room temperature in 90 ml of methylene chloride with 115 mg of tetrabutylammonium hydrogen sulfate, 0.18 ml of acetyl chloride and 139 mg of pulverized potassium hydroxide pellets. After suctioning off over kieselguhr, the mixture is once again combined with the same amounts of acetyl chloride, pulverized potassium hydroxide and tetrabutylammonium hydrogen sulfate and stirred for one hour at room temperature. After combining with ice water, the mixture is neutralized with sodium bicarbonate and extracted by shaking. The organic phase is dried, filtered, and concentrated. The residue is chromatographed over silica gel with methylene chloride:ethanol=10:1 as the eluent, thus obtaining 500 mg of 1,1-diethyl-3-(2-iodo-1-acetyl-6-methyl-8α-ergolinyl)urea as an oil. [α]D =+40° (c=0.2 pyridine).

reactant | 1,1-diethyl-3-(2-iodo-6-methyl-8α-ergolinyl)urea | 1.05 g | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)I)C)CC | C20H27IN4O
reactant | acetyl chloride | 0.18 ml | C(C)(=O)Cl | C2H3ClO
reactant | potassium hydroxide | 139 mg | [OH-].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulfate | 115 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1,1-diethyl-3-(2-iodo-1-acetyl-6-methyl-8α-ergolinyl)urea | 500 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(N(C4=CC=CC([C@H]2C1)=C34)C(C)=O)I)C)CC | C22H29IN4O2
